US05968930
10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 0.91 g of 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 4.51 g of SnCl 2.2H2O, 6 ml of ethyl alcohol, 6 ml of tetrahydrofuran and 16 ml of methylene chloride is stirred at 50° C. for 2 hours. The solvents are evaporated in vacuo and the residue dissolved in 80 ml of ethyl acetate. The solution is treated with 50 ml of 1N NaOH with stirring for 30 minutes. The resulting suspension is filtered through diatomaceous earth.

reactant | 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.91 g | [N+](=O)([O-])C1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H17N3O4
reactant | ethyl alcohol | 6 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | NC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H19N3O2
